US04696930
2-Chloro-N-(2,6-dimethylphenyl)-N-[3-(3-pyridinyl)propyl]acetamide
A solution of 10.0 g of N-(2,6-dimethylphenyl)-3-pyridinepropanamine in 75 ml of dichloromethane was added dropwise to a cold (20° C.) solution of 3.5 ml of chloroacetylchloride in 35 ml of dichloromethane. The cooling bath was removed and the reaction was allowed to warm to room temperature over 30 minutes followed by the addition of excess aqueous sodium bicarbonate solution. The layers were separated and the organic layer was washed with brine, dried with sodium sulfate and evaporated to give 13.4 g of product as a dark oil which was used directly in the next steps, that is, in Examples 20 and 21.

reactant | N-(2,6-dimethylphenyl)-3-pyridinepropanamine | 10.0 g | CC1=C(C(=CC=C1)C)NCCCC=1C=NC=CC1 | C16H20N2
reactant | chloroacetylchloride | 3.5 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 2-Chloro-N-(2,6-dimethylphenyl)-N-[3-(3-pyridinyl)propyl]acetamide | 13.4 g | ClCC(=O)N(CCCC=1C=NC=CC1)C1=C(C=CC=C1C)C | C18H21ClN2O
